US04061761
a. 4-Methyl-3-sulfamoylbenzoyl chloride
10 g of 4-methyl-3-sulfamoylbenzoic acid were boiled under reflux for 8 hours in 50 ml of thionyl chloride and the reaction mixture was allowed to stand over night at 0° C. The crystals were collected on a sinter glass frit and washed with petroleum ether and diisopropyl ether. Melting point: 180° C (decomposition).

reactant | 4-methyl-3-sulfamoylbenzoic acid | 10 g | CC1=C(C=C(C(=O)O)C=C1)S(N)(=O)=O | C8H9NO4S
reactant | thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-Methyl-3-sulfamoylbenzoyl chloride | CC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C8H8ClNO3S
